Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right sided weakness (worsening)
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is unable to provide any history given global
aphasia. History obtained from speaking with his wife and review
of OMR.  

  Mr. ___ is a ___ year-old right-handed man with PMH
significant for HIV (diagnosed in ___ CD4 148 and viral load
13,040 on ___ and PML, who has seen Dr. ___ in clinic,
and now presents to the ED with increased right sided weakness.
According to his wife, there has been a significant change from
last ___ into ___. Earlier last week, while with
___, he was able to walk across the floor with some support and a
1 sided walker. Now, he is unable to walk at all. He was also
reportedly able to lift his right arm slightl against gravity as
of earlier last week, but is now no longer able to do this
either. His wife believes the change occured between ___ and ___
and has not progressed since then. He had a session with ___
yesterday and his physical therapist noticed the worsening
weakness and had his ___ evaluate him this morning. The ___ 
noted
possible rales on exam and his SBP was reportedly in the mid
___. The family contacted his ID physician at ___, who
recommended he come to the ___ ED for eval given his
appointment with Dr. ___
  According to Dr. ___ note on ___, he had not seen a
physician ___ ___ years and was admitted to ___ in ___ 
with
a necrotizing pneumonia. An HIV test performed at that time was
positive; his initial CD4 count was 58 and viral load 383,000. 
It
is believed he was started on HIV medication in ___ or
___, but was initially taking only Truvada and was
later switched to Atripla. In ___, he was at a meeting and
complained of difficulty writing. Later in the month, he needed
help to find the right table at a gathering. A CT head and brain
MRI were performed on ___, which showed an area of the
hypodensity (CT)and hyperintensity
(MRI) in the left parietal subcortical white matter, not
associated with mass effect or swelling.  A LP showed 1 white
blood cell, 0 red blood cell, protein 51, and CSF HIV viral load
of 1340. JCV PCR was positive in the CSF and he was diagnosed
with progressive multifocal leukoencephalopathy (PML). HSV PCR
was negative in the CSF; Lyme serology and RPR was nonreactive.
On ___, he was found to have difficulty speaking 
and
right facial droop.  He had a repeat MRI of the brain performed
on ___, showing extension of the left parietal
lesion in the left temporal and left frontal lobe as
well as spread through the splenium of the corpus callosum to 
the
right hemisphere. The lesions were not associated with any
swelling or mass effect and there was no contrast enhancement.
When he saw Dr. ___ on ___, he was found to have global
aphasia, right homonymous hemianopia and mild right upper
extremity weakness. 
 
Past Medical History:
-HIV (per OMR, dx ___, date of initial infection is
approximately ___ years ago, according to the discussion that
Mrs. ___ had with her husband when he was able to speak)
-PML

 
Social History:
___
Family History:
Mother deceased at age ___ from kidney cancer
and
renal failure.  Father deceased of heart failure.  One sister 
and
one brother with high blood pressure and cardiac problems.  One
son and one daughter alive and well

 
Physical Exam:
ADMISSION
Physical Exam: 

Vitals: T: 98.2 P: 74 R: 18  BP: 110/63 SaO2: 100%

General: Awake, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, No nuchal rigidity, neg. Kernig and Brud___
signs 
Pulmonary: lcta b/l  
Cardiac: RRR, S1S2
Abdomen: soft, nondistended, +BS 
Extremities: warm, well perfused  
Skin: no rashes or lesions noted. 
 
Neurologic: 

Mental Status: awake, alert, globally aphasic. He is able to say
"yes" and "no" but not as appropriate responses to questions.
Impaired comprehension- does not follow any simple commands
(neither midline nor appendicular).    
 
Cranial Nerves: PERRL 3 to 2mm. Appears to blink to threat on
left, but not on right; possible right hemianopia. He would not
keep eyes open to allow for visualiztion of fundi. Does not
track. Difficult to tell if eye movements are full, but able to
look in all directions. Right NL fold flattening with right 
lower
facial droop.  
 
Motor: Normal bulk. Flaccid tone on right. Right hemiplegia. 
Left
sided strength full (he would provide resistance if push against
muscle groups) at deltoids, biceps, triceps, WE, FE, IP,
hamstrings, quads and TA.   
 
Sensory: Grimmaces and withdraws to noxious stimuli on left. Did
grimmace to nailbed pressure on RUE, but no other noxious
stimulus of right upper extremity would result in grimmace. No
grimmace to noxiouis stimulus of right lower extremity.   
 
DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  3  3    2    3   1 
Plantar response was extensor on right and flexor on left. 
 
Coordination: unable to assess 
 
Gait: unable to assess 
----

 
Pertinent Results:
___ 12:30PM   WBC-5.8 RBC-4.09* HGB-13.1* HCT-38.0* MCV-93 
MCH-31.9 MCHC-34.4 RDW-15.2
___ 12:30PM   NEUTS-63.7 ___ MONOS-5.6 EOS-2.5 
BASOS-1.0
___ 12:30PM   PLT COUNT-390
___ 12:30PM   GLUCOSE-85 UREA N-26* CREAT-1.2 SODIUM-139 
POTASSIUM-4.7 CHLORIDE-100 TOTAL CO2-30 ANION GAP-14
___ 12:30PM   ALT(SGPT)-33 AST(SGOT)-23 ALK PHOS-62 TOT 
BILI-0.1
___ 03:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:10PM URINE  RBC-1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-0

___ NCHCT
IMPRESSION: 
1. Extensive asymmetric left greater than right white matter 
hypodensity with 
involvement of the splenium of the corpus callosum. Given 
history, findings 
would be consistent with PML. Additional differential 
considerations for 
these findings include include other demylelinating processes, 
infection (such 
as HIV encephalopathy although less likely given asymmetry), or 
tumor. 
Consider obtaining prior imaging to assess for interval change. 
Contrast 
enhanced MRI may offer additonal detail if no contraindication. 
2. No intracranial hemorrhage. 
3. Right frontoparietal subdural effusion. 

___ CXR
IMPRESSION: Unremarkable portable chest x-ray.

___ MRI C/T ___ c/s contrast
IMPRESSION: 
  
There are multilevel moderate and severe degenerative changes of 
the cervical 
___ as described above. There is mild abnormal spinal cord 
signal from C3 to 
C7 which may be related to the degenerative changes and/or 
changes from PML. 

___ MRI Brain c/s contrast
IMPRESSION: 
  
1. Extensive predominantly left hemispheric white matter 
process, T2-/FLAIR- 
hyper- and T1 hypointense, centered in the left parietal 
subcortical/periventricular white matter, extending to the left 
frontotemporal 
region and also spreading through the splenium of the corpus 
callosum to the 
contralateral right periventricular parietal subependymal white 
matter. No 
enhancement, mass effect or shift of midline structures. The 
findings are 
highly suspicious for extensive progressive multifocal 
leukoencephalopathy 
(PML). 
  
2. Small focus (or foci) of slow diffusion seen in the right 
parietal deep 
white matter; if this represents a more acute inflammatory 
component, it 
raises the possiblitity of ___, related to HAART, though the 
lack of 
enhancement would be unusual. 
  
3. Small right frontal subdural collection, without evidence of 
blood 
products, unchanged from the CT study the day before. Mild right 
frontal 
dural thickening and enhancement, likely reactive. 

CSF HIV VL < 20 copies
Serum HIV VL 437 copies
CSF Cryptococcal antigen negative
CSF HSV negative

WBC: 5.9 
Lymph: 24 
___: 1416 
CD3%: 77 
Abs-CD3: 1087 
CD4%: 12 
Abs-CD4: 165 
CD8%: 65 
Abs-CD8: 924 
CD4/CD8: 0.___ h/o HIV (CD4 148, VL 13k) w/PML p/w worsening right-sided 
weakness. Baseline examination includes global aphasia, right 
hemianopia, right face weakness, and mild right arm paresis.

[] Worsening R Hemiparesis - On HOD1, a contrast-enhanced MRI 
study of the brain was obtained and revealed progressive PML, 
but was not suggestive of ___ or an obvious underlying mass (no 
enhancement). Dr. ___ patient's neurologist, had 
previously evaluated the patient by MRI Spect. for the 
possibility of ___, and considered it unlikely. The patient 
underwent an LP which did not suggest an inflammatory process 
(OP 15 Prot 48 Glu 65 #1: 2 WBCs 22 RBCs #4: 3 WBCs 28 RBCs with 
a lymph predominance). Cytology and broad infectious studies 
(EBV PCR to evaluate for primary CNS lymphoma, CMV, HSV and CSF 
HIV viral load) were sent. Gram stain and cryptococcal antigen 
were negative and CSF viral load was under 20. These 
studies lowered suspicion for primary CNS lymphoma or another 
opportunistic infection.

  On HOD2, we obtained an MR ___ to evaluate urinary 
incontinence. This study showed hyperintensity from C3-C7. Given 
that PML involvement of the spinal cord is rare, this may 
represent vacuolar myelopathy.  An EEG was obtained with the 
final report pending, but it does not show any clear seizures on 
a preliminary read.

[]HIV. Patient was maintained on Atripla. He was kept on Bactrim 
and Azithromycin prophylaxis. He was also maintained on 
Mirtazapine for PML. Viral load and CD4 count were 437 and 165. 
In discussions with Dr. ___ Dr. ___ Infectious 
___ service suggested starting Zidovudine 300 mg twice daily 
for further CNS penetration.

PENDING STUDIES:
[ ] Routine EEG report
[ ] CSF studies: EBV, ___ virus, Cytology

TRANSITIONAL CARE ISSUES:
[ ] HAART therapy - Please follow the patient's course while on 
the additional agen Zidovudine.
[ ] Long term care - Please continue to work with Social Work to 
help the patient and his family determine the best location for 
care and services needed.
[ ] Depression - The patient's wife requested consideration of 
additional antidepressant treatment. Consider increasing his 
mirtazapine or adding an additional agent (while being mindful 
of interactions with mirtazapine and his antiretroviral 
medications).
[ ] ___ - Please work with the patient to prevent 
contractures. Use splints as needed. Please turn and take 
appropriate pressure ulcer prevention/precautionary measures.
 
Medications on Admission:
-Bactrim 400-80 daily
-B-12 1000 mcg daily
-magensium 800 mg daily
-Azithromycin 1200 mg weekly
-Atripla ___ daily
-mirtazipine 15 mg qhs  

 
Discharge Medications:
1. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. cyanocobalamin (vitamin B-12) 500 mcg Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
3. magnesium oxide 400 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. azithromycin 600 mg Tablet Sig: Two (2) Tablet PO 1X/WEEK 
(FR).  
5. ATRIPLA ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
6. heparin (porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
7. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain or T > 99.  
8. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
10. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
11. mirtazapine 30 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
12. zidovudine 300 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
Primary Diagnosis: Progressive multifocal leukoencephalopathy

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Neurologic: Awake, alert, says 'yes' or 'no', impaired verbal 
and reading comprehension, right upper and lower facial 
weakness, right arm plegia, right leg paresis.

 
Discharge Instructions:
Mr. ___,

You were hospitalized due to symptoms of worsening right-sided 
weakness that we believe is related to your central nervous 
system infection. Dr. ___, Dr. ___, and the 
Infectious Disease consult service provided recommendations on 
how to manage your medications. We are having you go to a 
Rehabilitation facility to help increase strength if possible, 
minimize pain or contractures on your right side, and maximize 
your strength on your left side.

To help better manage your syndrome and symptoms, we have 
changed your medications as follows:
1. We are adding ZIDOVUDINE 300 MG twice daily for additional 
antiretroviral treatment and greater coverage of the neurologic 
system.
2. Please take your other medications as previously prescribed 
and listed below.

Please followup with Dr. ___ in Neurology as listed below.

If you experience any new neurologic symptoms as listed below, 
please seek medical attention.

It was a pleasure providing you with medical care during this 
hospitalization.
 
Followup Instructions:
___